US09403798B2
To an N,N-dimethylformamide solution (5 ml) of tert-butyl 4-[(4-fluorophenyl)amino]piperidine-1-carboxylate (250 mg, 0.850 mmol) synthesized in Reference Synthesis Example 23, sodium hydride (37 mg, 0.93 mmol, purity 60%) and methyl iodide (58 μL, 0.93 mmol) were added at room temperature and the resultant solution was stirred at room temperature for 15 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added, and extraction with ethyl acetate was performed from the resultant mixture. The resultant organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product of tert-butyl 4-[(4-fluorophenyl)(methyl)amino]piperidine-1-carboxylate (286 mg). Subsequently, to the obtained tert-butyl 4-[(4-fluorophenyl)(methyl)amino]piperidine-1-carboxylate (130 mg, 0.420 mmol), 4 M hydrogen chloride/1,4-dioxane solution (2 mL) was added and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the resultant solid was collected by filtration and washed with dichloromethane. To the obtained solid, water was added and pH of the resultant solution was adjusted to 9 with 1 M sodium hydroxide aqueous solution, followed by extraction from the resultant mixture with ethyl acetate and chloroform. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (62 mg, yield 72%).

reactant | tert-butyl 4-[(4-fluorophenyl)amino]piperidine-1-carboxylate | 0.850 mmol, 250 mg | FC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H23FN2O2
reactant | sodium hydride | 0.93 mmol, 37 mg | [H-].[Na+]
reactant | methyl iodide | 0.93 mmol, 58 μL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-[(4-fluorophenyl)(methyl)amino]piperidine-1-carboxylate | 286 mg | FC1=CC=C(C=C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C | C17H25FN2O2
